US07361671B2
A solution of 6-ethyl-5-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-pyridin-3-yl-acetic acid-methyl ester (0.27 g, 0.71 mmol) in DME (5 mL, 0.1 M) is cooled to 0° C. under nitrogen and treated with 0.4 M NaOH (3 mL, 1.2 mmol). After stirring for 2 h, the solution is acidified with 2 M HCl, diluted with saturated aq NaCl (10 mL), extracted with ethyl acetate (3×10 mL) and dried over Na2SO4. Purification by HPLC (acetonitrile/water, 0.05% HCl) provided 6-ethyl-5-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-pyridin-3-yl-acetic acid hydrochloride as a white solid (0.21 g, 80%): mp 220° C. dec; Rf 0.21 (10% methanol in dichloromethane), 1H NMR (DMSO-d6, 300 MHz) δ 8.60 (s, 1 H), 8.18 (br s, 1 H), 7.78 (ddd, J1=11.1 Hz, J2=9.6 Hz, J3=5.9 Hz, 1 H), 4.80 (s, 2 H), 3.79 (s, 2 H), 2.97 (q, J=7.6 Hz, 2 H), 1.20 (t, J=7.6 Hz, 3 H); ESI-LCMS m/z calcd for C17H13F3N2O2S: 366.1; found 367.0 (M+1)+. Anal. Calcd for C17H13F3N2O2S.HCl: C, 50.69; H, 3.50; N, 6.95; S, 7.96. Found: C, 55.41; H, 3.56; N, 6.91; S, 7.98.

reactant | 6-ethyl-5-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-pyridin-3-yl-acetic acid-methyl ester | 0.71 mmol, 0.27 g | COC(CC=1C=NC(=C(C1)CC=1SC2=C(N1)C(=C(C=C2F)F)F)CC)=O | C18H15F3N2O2S
reactant | NaOH | 1.2 mmol, 0.4 M, 3 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | DME | 0.1 M, 5 mL | COCCOC | C4H10O2
solvent | NaCl | 10 mL | [Na+].[Cl-]
product | 6-ethyl-5-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-pyridin-3-yl-acetic acid hydrochloride | 0.21 g, 80% | Cl.C(C)C1=C(C=C(C=N1)CC(=O)O)CC=1SC2=C(N1)C(=C(C=C2F)F)F | InChI=1S/C17H13F3N2O2S.ClH/c1-2-12-9(3-8(7-21-12)4-14(23)24)5-13-22-16-15(20)10(18)6-11(19)17(16)25-13;/h3,6-7H,2,4-5H2,1H3,(H,23,24);1H
